US07122543B2
N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]morpholine
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid (7 mg, 0.0165 mmol), 4-dimethylaminopyridine (1.0 mg, 0.0081 mmol) and morpholine (2.9 mg, 0.0333 mmol) were dissolved in methylene chloride (2 ml), WSC-HCl (9.5 mg, 0.0495 mmol) was added thereto and the mixture was stirred at room temperature for 6 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (8.0 mg, 0.0162 mmol, 98%).

reactant | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid | 0.0165 mmol, 7 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | morpholine | 0.0333 mmol, 2.9 mg | N1CCOCC1 | C4H9NO
reactant | WSC HCl | 0.0495 mmol, 9.5 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-dimethylaminopyridine | 0.0081 mmol, 1.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]morpholine | 0.0162 mmol, 8.0 mg, 98% | COC=1C(=C(CC2=CC(=C(C(=O)N3CCOCC3)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C28H32N2O6
